US05614544
A mixture of (E,E)-5-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]phenyl]-2,4-pentadien-1-al (2.3 g), 2,4-oxazolidinedione (2.0 g), piperidine (0.596 g) and acetic acid (50 ml) was refluxed under heating conditions for 15 hours. The reaction mixture was concentrated; water was added to the residue, followed by acidification with 2N HCl and subsequent extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and then concentrated. The residue was subjected to silica gel chromatography to yield 5-[(E,E)-5-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]phenyl]-2,4pentadienylidene]-2,4-oxazolidinedione [mixture of the (E)- and (Z)-configurations](1.0 g, 33%) from the fraction eluted with chloroform-ethyl acetate (9:1, v/v), which was then recrystallized from chloroform-methanol to yield light yellow prisms having a melting point of 208°-210° C.

reactant | (E,E)-5-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]phenyl]-2,4-pentadien-1-al | 2.3 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC1=CC=C(C=C1)/C=C/C=C/C=O | C23H21NO2
reactant | 2,4-oxazolidinedione | 2.0 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | piperidine | 0.596 g | N1CCCCC1 | C5H11N
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-[(E,E)-5-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethyl]phenyl]-2,4pentadienylidene]-2,4-oxazolidinedione | CC1=C(N=C(O1)C1=CC=CC=C1)CCC1=CC=C(C=C1)/C=C/C=C/C=C1C(NC(O1)=O)=O | C26H22N2O4
